US07678796B2
(R)-2-Carbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester
N-Methylmorpholine (9.85 g, 97.5 mmol) and isobutyl chloroformate (13.33 g, 97.5 mmol) was added to (R)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (20.0 g, 92.9 mmol) in THF (200 mL) at −78° C. and stirred for 1 h. Ammonium hydroxide (58 mL) was added slowly as the reaction warmed up to RT and stirred for a further 2 h. The reaction mixture was partitioned between DCM and water. The organic extracts were washed with 1 M HCl, dried over sodium sulphate, filtered and concentrated to afford the title product (10.8 g, 54%) as a colourless semisolid.

reactant | N-Methylmorpholine | 97.5 mmol, 9.85 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 97.5 mmol, 13.33 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (R)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 92.9 mmol, 20.0 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | Ammonium hydroxide | 58 mL | [OH-].[NH4+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (R)-2-Carbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.8 g, 54% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(N)=O | C10H18N2O3
